US07282501B2
Step 2: Biphenyl-4-carboxylic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester
A mixture of biphenyl-4-carboxylic acid (800 g, 4.03 mol) in acetone (4.6 L) was treated with triethylamine (0.6 L, 4.3 mol, 1.07 eq) dropwise over 13 min while maintaining the temperature at 15-30° C. 4-Bromo-3-oxo-pentanoic acid methyl ester (880 g, 4.21 mol, 1.04 eq) was added dropwise over 21 min at 15-30° C. The mixture was stirred overnight at room temperature. Water (9.6 L) was added dropwise over 85 minutes at 15-30° C. The mixture was stirred for 2 h. The precipitated product was collected by filtration and washed twice with water (1 L). The product was dried under vacuum at 50° C. to afford 1291 g (98% yield, 96% HPLC purity) of the title compound.

reactant | biphenyl-4-carboxylic acid | 4.03 mol, 800 g | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | triethylamine | 4.3 mol, 0.6 L, 1.07 eq | C(C)N(CC)CC | C6H15N
reactant | 4-Bromo-3-oxo-pentanoic acid methyl ester | 4.21 mol, 880 g, 1.04 eq | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | Water | 9.6 L | O | H2O
solvent | acetone | 4.6 L | CC(=O)C | C3H6O
product | Biphenyl-4-carboxylic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester | 98% yield | COC(=O)CC(C(C)OC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H18O5
